US09278915B2
Intermediate 170: Methyl 3-(4-hydroxyphenyl)-3-oxopropanoate
To a 50 mL RB flask fitted with magnetic stirrer were charged ethyl acetate (15 mL), to that stirred solvent was added methyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate (0.3 g, 1.05 mmol), and palladium carbon 10% (80 mg) was added. After addition, the hydrogen balloon was fixed to the reaction mixture and stirred at room temperature for 1 h. After 3 h, the reaction mixture was filtered through celite. Then the organic layer was concentrated and dried. The product was obtained as colourless liquid (0.2 g, Yield: 98%).

reactant | methyl 3-[4-(benzyloxy)phenyl]-3-oxopropanoate | 1.05 mmol, 0.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OC)=O | C17H16O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 80 mg | [C].[Pd]
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(4-hydroxyphenyl)-3-oxopropanoate | 0.2 g, Yield: 98% | OC1=CC=C(C=C1)C(CC(=O)OC)=O | C10H10O4
